US07939528B2
To a dichloromethane solution (200 mL) containing 3,4-difluorophenyl propionic acid (30.45 g, 163.6 mmol) and 2 drops of dimethylformamide was added oxalyl chloride (41.4 g, 327.1 mmol) over 20 min. The resulting solution was stirred for 24 hours at which time the solvent was removed in vacuo. The residual oil was then evaporated with toluene (˜100 mL) yielding 33.4 g of 3-(3,4-difluorophenyl)propanoyl chloride as a yellow liquid, which was taken directly into the next step.

reactant | 3,4-difluorophenyl propionic acid | 163.6 mmol, 30.45 g | FC=1C=C(C=CC1F)C(C(=O)O)C | C9H8F2O2
reactant | oxalyl chloride | 327.1 mmol, 41.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3-(3,4-difluorophenyl)propanoyl chloride | 33.4 g | FC=1C=C(C=CC1F)CCC(=O)Cl | C9H7ClF2O
